US07348354B2
2-(2-1H-Indol-3-ylacetylamino)-4-methylpentanoic acid (4-dimethylamino-4-phenylcyclohexyl)amide
The more polar diastereomer of (4-dimethylamino-4-phenyl-cyclohexyl)amine (143 mg, 0.66 mmole) and 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride (272 mg, 0.98 mmole) were added to a solution of N-(3-indolylacetyl)-L-leucine (189 mg, 0.66 mmole) in MeOH and stirred for 24 h at room temperature. Working up was performed by removing MeOH by distillation. The residue was re-dissolved with water, adjusted to pH 11 with 5M NaOH and extracted with ethyl acetate. The organic phase was dried with Na2SO4 and then evaporated. The product was obtained as a colorless oil in a yield of 320 mg (100%).

reactant | (4-dimethylamino-4-phenyl-cyclohexyl)amine | 0.66 mmole, 143 mg | CN(C1(CCC(CC1)N)C1=CC=CC=C1)C | C14H22N2
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 0.98 mmole, 272 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | N-(3-indolylacetyl)-L-leucine | 0.66 mmole, 189 mg | N1C=C(C2=CC=CC=C12)CC(=O)N[C@@H](CC(C)C)C(=O)O | C16H20N2O3
solvent | MeOH | CO | CH4O
product | 2-(2-1H-Indol-3-ylacetylamino)-4-methylpentanoic acid (4-dimethylamino-4-phenylcyclohexyl)amide | CN(C1(CCC(CC1)NC(C(CC(C)C)NC(CC1=CNC2=CC=CC=C12)=O)=O)C1=CC=CC=C1)C | C30H40N4O2
